US08076502B2
225 μL of thionyl chloride was added to 300 mg of (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid suspended in 4 mL of pentanol at ice-cooling, and the mixture was stirred for 3 hours at 50° C. After standing to cool, the reaction solution was concentrated to about 1 mL under reduced pressure, 200 mL of hexane was added thereto, and the mixture was stirred for 12 hours. After the precipitated solids were filtered, the residue was purified by reverse phase column chromatography (Wako gel 50C18 (made by Wako Pure Chemical Industries Ltd.), eluent: water to a 50% aqueous solution of acetonitrile), thereby yielding 188 mg of (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid 6-pentyl ester.

reactant | thionyl chloride | 225 μL | S(=O)(Cl)Cl | Cl2OS
reactant | (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid | 300 mg | N[C@@]1([C@@H]2[C@]([C@@H]2C[C@H]1OCC1=CC(=C(C=C1)Cl)Cl)(C(=O)O)F)C(=O)O | C15H14Cl2FNO5
solvent | pentanol | 4 mL | C(CCCC)O | C5H12O
product | (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid 6-pentyl ester | 188 mg | C(CCCC)OC(=O)[C@]1([C@@H]2C[C@H]([C@]([C@H]12)(C(=O)O)N)OCC1=CC(=C(C=C1)Cl)Cl)F | C20H24Cl2FNO5
